US06939928B1
(2) Synthesis of 3,6,6-triphenylfulvene
A solution of 2.5 g (17.6 mmol) of phenylcyclopentadiene in 30 ml of toluene was ice cooled, and thereto was dropwise added 13.0 ml (21.1 mmol) of a hexane solution of n-butyllithium. The resulting white slurry was stirred at room temperature for one night. From the slurry, the solvent was filtered off to give a THF solution (brown solution). To the solution, a solution of 3.2 g (17.6 mmol) of benzophenone in 10 ml of THF was added, followed by stirring at room temperature for one night. After addition of water, the mixture was subjected to extraction with diethyl ether and dried over magnesium sulfate. Then, the ether was distilled off to obtain a red viscous liquid. The liquid was purified by a silica gel column to obtain a red solid.

reactant | phenylcyclopentadiene | 17.6 mmol, 2.5 g | C1(=CC=CC=C1)C1=CC=CC1 | C11H10
reactant | hexane | 21.1 mmol, 13.0 ml | CCCCCC | C6H14
reactant | n-butyllithium | C(CCC)[Li]
reactant | benzophenone | 17.6 mmol, 3.2 g | C(C1=CC=CC=C1)(=O)C1=CC=CC=C1 | C13H10O
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 3,6,6-triphenylfulvene | C1(=CC=CC=C1)C=1C=CC(C1)=C(C1=CC=CC=C1)C1=CC=CC=C1 | C24H18
